US09085581B2
(R)-ethyl 2-(7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (81.1 g, 232 mmol was dissolved in EtOAc (1.0 L) and washed w/aq. 0.5 N HCl (2×350 mL). The organics were dried over MgSO4, filtered, and concentrated to a total volume of approximately 600 mL. The solution was transferred to a Parr bottle and 10% Pd/C (22 g) was added. The mixture was placed on a Parr shaker under 50 psi of hydrogen for 3.5 h. The mixture was filtered through celite and concentrated in vacuo. The crude material was treated with hexanes:MTBE (1:1, v/v, 500 mL), and concentrated to give a white paste. The resulting paste was suspended in a mixture of hexanes:MTBE (2:1, v/v, 350 mL) and filtered. The filter cake was washed with hexanes (twice) to provide a 1st crop of (R)-ethyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate as a white solid (˜70 g, wet). Upon standing the combined filtrates contained additional precipitated product that was filtered and washed with hexanes (twice) to give a 2nd crop (˜7 g, wet) of (R)-ethyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate. All remaining filtrates were concentrated and purified by silica gel chromatography (45% EtOAc in hexanes gradient to 85% EtOAc in hexanes). Concentration of the fractions containing the product provided a white solid that was filtered and washed with hexanes to give an additional 6.73 g of desired product.

reactant | (R)-ethyl 2-(7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)CC[C@@H]3CC(=O)OCC | C22H23NO3
solvent | EtOAc | 1.0 L | CCOC(=O)C | C4H8O2
product | (R)-ethyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | OC1=CC=2C=C3N(C2C=C1)CC[C@@H]3CC(=O)OCC | C15H17NO3
